US04298602
1-(2-Pyridinyl)-1H-1,2,4-triazol-3-ol
A mixture of 31.9 g (0.21 m) of 2-pyridinylhydrazinecarboxamide and 17.50 ml of triethylorthoformate was refluxed for 6 hours with the ethanol formed as a by-product being continuously removed by distillation thereby maintaining the reaction temperature at 130°-140° C. At the completion of the reaction, the reaction mixture was cooled to 15° C. and the solid 1-(2-pyridinyl)-1H-1,2,4-triazol-3-ol product was recovered by filtration. The product after washing with methylene chloride was recovered in a yield of 25.2 g (74 percent of theoretical). The product melted at 260°-262° C. and upon analysis was found to have carbon, hydrogen and nitrogen contents of 52.26, 3.90 and 34.79 percent, respectively, as compared with the theoretical contents of 51.89, 3.73 and 34.55 percent, respectively, calculated for the above named compound.

reactant | 2-pyridinylhydrazinecarboxamide | 31.9 g | N1=C(C=CC=C1)NNC(=O)N | C6H8N4O
reactant | triethylorthoformate | 17.50 ml | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-Pyridinyl)-1H-1,2,4-triazol-3-ol | N1=C(C=CC=C1)N1N=C(N=C1)O | C7H6N4O
